US04983600
(b) N-[[[1-azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-3-trifluoromethylbenzamide
The above compound was prepared from 3-amino quinuclidine dihydrochloride (1.0 g, 5 mmol), 3-trifluoromethylbenzoylurea (1.16 g, 5 mmol) and diisopropylethylamine (1.29 g, 10 mmol) in pyridine (20 ml), by refluxing under nitrogen overnight. The solvent was evaporated and the residue worked-up as in Example 1. The product (1.18 g) was converted to oxalate salt, mp 197°-200° C.

reactant | 3-amino quinuclidine dihydrochloride | 5 mmol, 1.0 g | Cl.Cl.NC1CN2CCC1CC2
reactant | 3-trifluoromethylbenzoylurea | 5 mmol, 1.16 g | FC(C=1C=C(C(=O)NC(=O)N)C=CC1)(F)F | C9H7F3N2O2
reactant | diisopropylethylamine | 10 mmol, 1.29 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[[[1-azabicyclo[2.2.2]octan-3-yl]amino]carbonyl]-3-trifluoromethylbenzamide | N12CC(C(CC1)CC2)NC(=O)NC(C2=CC(=CC=C2)C(F)(F)F)=O | C16H18F3N3O2
